US08053457B2
4-Cyclopentylmethyl-piperazine-1-carboxylic acid tert-butyl ester
The title compound is synthesized by reductive amination of 1-Boc-piperazine and Cyclopentane-carboaldehyde analogously to the preparation of Example 233 as a colorless oil; ES-MS: M+H=269.2; TLC: Rf=0.45 (DCM/EtOAc=1:1).

reactant | 1-Boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | Cyclopentane-carboaldehyde | C1(CCCC1)C=O | C6H10O
solvent | DCM EtOAc | C(Cl)Cl.CCOC(=O)C
product | 4-Cyclopentylmethyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1CCCC1 | C15H28N2O2
